US07282588B2
4-[1-ethyl-4-(5-fluoro-1H-pyrrolo[2,3-b]pyridin-4-yl)-1H-pyrazol-3-yl]aniline
To a suspension of 4-[1-ethyl-3-(4-nitrophenyl)-1H-pyrazol-4-yl]-5-fluoro-1H-pyrrolo[2,3-b]pyridine (0.655 mmol) in ethanol (3.5 mL) was added tin(0) powder (3.28 mmol) and 6N aqueous hydrochloric acid (3.5 mL) and the mixture was heated to 70° C. for 1 h. The reaction mixture was allowed to cool to room temperature, filtered through a pad of celite. The filtrate was diluted with ethyl acetate (10 mL) and washed with 1N sodium hydroxide (5 m L). The aqueous layer was extracted with ethyl acetate (3×10 mL) and the combined extracts were dried over sodium sulfate, filtered through a pad of celite and concentrated under reduced pressure to give the title compound as a yellow solid which was used without further purification. ESMS [M+H]+: 322

reactant | 4-[1-ethyl-3-(4-nitrophenyl)-1H-pyrazol-4-yl]-5-fluoro-1H-pyrrolo[2,3-b]pyridine | 0.655 mmol | C(C)N1N=C(C(=C1)C1=C2C(=NC=C1F)NC=C2)C2=CC=C(C=C2)[N+](=O)[O-] | C18H14FN5O2
reactant | tin(0) | 3.28 mmol | [Sn] | Sn
reactant | hydrochloric acid | 6N, 3.5 mL | Cl | ClH
solvent | ethanol | 3.5 mL | C(C)O | C2H6O
product | 4-[1-ethyl-4-(5-fluoro-1H-pyrrolo[2,3-b]pyridin-4-yl)-1H-pyrazol-3-yl]aniline | C(C)N1N=C(C(=C1)C1=C2C(=NC=C1F)NC=C2)C2=CC=C(N)C=C2 | C18H16FN5
